US07915268B2
4-(2,4-Dimethoxybenzylamino)-3-nitrobenzonitrile.
A solution of 4-fluoro-3-nitrobenzonitrile (5.0 g) in THF (100 mL) was treated with DIEA (6.3 mL) and 2,4-dimethoxybenzylamine (5.0 mL), and then stirred for 24 h. The solvent was evaporated and the crude mixture was dissolved in EtOAc (100 mL). The solution was washed once with 1 M HCl and twice with saturated aqueous NaCl (100 mL each). The organic layer was separated, dried over Na2SO4, filtered, and concentrated in vacuo. Column chromatography (20% EtOAc in DCM) provided 9.25 g of the title compound.

reactant | 4-fluoro-3-nitrobenzonitrile | 5.0 g | FC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3FN2O2
reactant | DIEA | 6.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4-dimethoxybenzylamine | 5.0 mL | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-(2,4-Dimethoxybenzylamino)-3-nitrobenzonitrile | 9.25 g | COC1=C(CNC2=C(C=C(C#N)C=C2)[N+](=O)[O-])C=CC(=C1)OC | C16H15N3O4
